US08383644B2
(S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester was treated with HCl according to General Procedure C and followed by aqueous NaHCO3 wash to give (S)-2-amino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester. This was subjected to alkylation with (1-bromo-propyl)-benzene according to General Procedure P. Resulting product was purified on silica gel to give (S)-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-2-((R)-1-phenyl-propylamino)-propionic acid methyl ester (slower moving diastereomer). LCMS (m/z): 606. 1H NMR (400 MHz, Acetone-d6) 7.72 (d, 1H), 7.62 (d, 1H), 7.48 (m, 1H) 7.44 (d, 2H), 7.3 (m, 4H), 7.22 (m, 1H) 7.10 (d, 1H) 6.8 (d, 1H) 6.74 (d, 1H) 6.68 (m, 1H) 5.2 (s, 2H) 5.1 (m, 1H) 4.35 (m, 1H) 4.0 (m, 1H) 3.56 (t, 1H) 3.45 (s, 3H) 3.40 (t, 1H) 3.15 (s, 3H) 2.9 (m, 2H) 1.74 (m, 1H) 1.56 (m, 1H) 0.75 (t, 3H).

reactant | (S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (S)-2-amino-3-{(S)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N)=O | C25H23Cl2NO5
